US04165378
A solution of 2-aminoethanethiol hydrochloride (1.85 g.) in ethanol (30 ml.) was added to a stirred solution of sodium (0.90 g.) in ethanol (50 ml.) under a nitrogen atmosphere. A solution of 2-(2-n-butylguanidino)-4-chloromethylthiazole hydrochloride (2.20 g.) in ethanol (50 ml.) was added dropwise to the mixture, which was then stirred for 3 hours while warming to room temperature. A mixture of concentrated hydrochloric acid (5 ml.) and water (15 ml.) was then added, and the mixture evaporated to dryness. The residual gummy solid was extracted with boiling ethanol (3×20 ml.) and the residual white solid discarded. The combined ethanolic extracts were filtered and the filtrate evaporated to dryness to give 2-(2-n-butylguanidino)-4-(2-aminoethyl)thiomethylthiazole hydrochloride as a thick gum which was used without further purification.

reactant | 2-aminoethanethiol hydrochloride | 1.85 g | Cl.NCCS
reactant | sodium | 0.90 g | [Na] | Na
reactant | 2-(2-n-butylguanidino)-4-chloromethylthiazole hydrochloride | 2.20 g | Cl.C(CCC)N=C(NC=1SC=C(N1)CCl)N
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 15 ml | O | H2O
product | 2-(2-n-butylguanidino)-4-(2-aminoethyl)thiomethylthiazole hydrochloride | Cl.C(CCC)N=C(NC=1SC=C(N1)CSCCN)N | InChI=1S/C11H21N5S2.ClH/c1-2-3-5-14-10(13)16-11-15-9(8-18-11)7-17-6-4-12;/h8H,2-7,12H2,1H3,(H3,13,14,15,16);1H
